US08895547B2
2-Hydroxy-2-methyl-1-o-tolylpropane-1-sulfonamide
Under inert gas, 0.95 g of N-(2,4-dimethoxybenzyl)-C-o-tolylmethanesulfonamide was initially charged in 20 ml of THF, and then, at a temperature of −78° C., 4.06 ml of a 1.6 N methyllithium solution in diethyl ether were added dropwise and the mixture was stirred at constant temperature for 10 minutes. Subsequently, 1.22 ml of acetone were added. After stirring for 10 minutes, the reaction solution was admixed with 2 ml of trifluoroacetic acid and allowed to warm up to room temperature, and the solvent was removed under reduced pressure. The residue was dissolved in 10 ml of dichloromethane, and 1.5 ml of trifluoroacetic acid were added. After stirring at room temperature for 1.5 hours, the reaction solution was concentrated by rotary evaporation and the residue was taken up in a mixture of water and dichloromethane. The solid which precipitates out was filtered off with suction and discarded. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. Since the product was also present in the aqueous phase of the filtrate, this was extracted twice with 50 ml of ethyl acetate, and the combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. Both residues were purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation (516 mg). This gave the product with a molecular weight of 243.3 g/mol (C11H17NO3S).

reactant | N-(2,4-dimethoxybenzyl)-C-o-tolylmethanesulfonamide | 0.95 g | COC1=C(CNS(=O)(=O)CC2=C(C=CC=C2)C)C=CC(=C1)OC | C17H21NO4S
reactant | methyllithium | 1.6 N | C[Li]
reactant | acetone | 1.22 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Hydroxy-2-methyl-1-o-tolylpropane-1-sulfonamide | OC(C(S(=O)(=O)N)C1=C(C=CC=C1)C)(C)C | C11H17NO3S
